US09126940B2
Reaction of (1E,4E)-2-amino-8-bromo-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide and 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3-dioxolan-2-one as follows yielded (1E,4E)-2-amino-8-(4-(2-oxo-1,3-dioxolan-4-yl)phenyl)-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide (9%). (1E,4E)-2-amino-8-bromo-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide (75.0 mgs, 0.206 mmol), 4-(methoxycarbonyl)phenylboronic acid (55.6 mgs, 0.309 mmol, tetrakis(triphenylphosphine)palladium(0) (23.8 mgs, 0.021 mmol), 2M aqueous potassium carbonate (0.309 ml, 0.618 mmol) were combined in 2 mls of acetonitrile in a microwave reaction vial. This mixture was heated in a microwave to 100° C. for 30 minutes. The mixture was then diluted with EtOAc, washed twice with brine, dried over sodium sulfate, and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 7% MeOH/DCM) was then used. 1H NMR (400 MHz, DMSO-d6) δ 7.74-7.80 (m, 2H), 7.55-7.60 (m, 2H), 7.26-7.42 (m, 3H), 6.78 (s, 1H), 5.89-5.96 (m, 1H), 4.88-4.95 (m, 1H), 4.45-4.52 (m, 1H), 2.78 (s, 2H), 1.50-1.63 (m, 4H), 0.71-0.93 (m, 6H); m/z (APCI-pos) M+1=448.2. (1E,4E)-2-amino-8-(4-(1,2-dihydroxyethyl)phenyl)-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide (19%) was obtained as the more polar product. (19%). 1H NMR (400 MHz, DMSO-d6) δ 7.59-7.64 (m, 2H), 7.39-7.44 (m, 2H), 7.33-7.38 (m, 1H), 7.26-7.28 (m, 1H), 7.20-7.24 (m, 1H), 6.84 (br s, 1H), 6.74 (s, 1H), 5.23-5.27 (m, 1H), 4.71-4.75 (m, 1H), 4.54-4.62 (m, 1H), 3.44-3.50 (m, 2H), 3.28-3.35 (m, 4H), 2.74 (s, 2H), 1.51-1.61 (m, 4H), 0.73-0.90 (m, 6H); m/z (APCI-pos) M+1=422.2.

reactant | (1E,4E)-2-amino-8-bromo-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)Br)\C(=O)N(CCC)CCC | C17H22BrN3O
reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3-dioxolan-2-one | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1OC(OC1)=O)C | C15H19BO5
product | (1E,4E)-2-amino-8-(4-(2-oxo-1,3-dioxolan-4-yl)phenyl)-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide | 9% | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)C2OC(OC2)=O)\C(=O)N(CCC)CCC | C26H29N3O4
